US05945382
A solution of 5.00 g (0.033 mol) of t-butyl chloroacetate in 30 ml of DMF is run, dropwise and at room temperature, into a mixture of 7.62 g (0.030 mol) of 4-chloro-3-(3,5-dichlorophenyl)pyrazole and 5.60 g (0.040 mol) of K2CO3. The reaction mixture is stirred for 12 h at room temperature, diluted with 200 ml of H2O and extracted with ether. After drying the organic phase and concentration under vacuum, the residue is triturated with 20 ml of heptane, filtered and dried. We obtain 10.20 g of 1-t-butoxycarbonylmethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole, melting at 86° C.

reactant | t-butyl chloroacetate | 0.033 mol, 5.00 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | 4-chloro-3-(3,5-dichlorophenyl)pyrazole | 0.030 mol, 7.62 g | ClC=1C(=NNC1)C1=CC(=CC(=C1)Cl)Cl | C9H5Cl3N2
reactant | K2CO3 | 0.040 mol, 5.60 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | H2O | 200 ml | O | H2O
product | 1-t-butoxycarbonylmethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole | 10.20 g | C(C)(C)(C)OC(=O)CN1N=C(C(=C1)Cl)C1=CC(=CC(=C1)Cl)Cl | C15H15Cl3N2O2
